US04636509
5-Chloro-1-(4-nitrophenacyl)pyrimidin-2-one
A mixture of 5-chloropyrimidin-2-one (787 mg) and 2-bromo-4'-nitroacetophenone (1.47 g) in triethylamine (2 ml) and ethanol (40 ml) was stirred at ambient temperature for 1 hr. The reaction mixture was diluted with water and the solid filtered off.

reactant | 5-chloropyrimidin-2-one | 787 mg | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 2-bromo-4'-nitroacetophenone | 1.47 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Chloro-1-(4-nitrophenacyl)pyrimidin-2-one | ClC=1C=NC(N(C1)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H8ClN3O4
